US07544835B2
Dimethyl 2-[3-({[(4-trifluoromethylanilino)carbonyl]-oxy}methyl)-4-methoxybenzyl]malonate
Using dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate and α,α,α-trifluoro-p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C14H18O6
reactant | α,α,α-trifluoro-p-tolylisocyanate | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | Dimethyl 2-[3-({[(4-trifluoromethylanilino)carbonyl]-oxy}methyl)-4-methoxybenzyl]malonate | FC(C1=CC=C(NC(=O)OCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2OC)C=C1)(F)F | C22H22F3NO7
